US04727082
In 200 ml of methanol were dissolved 2 g of dimethyl 4-[2-(4-aminobutoxy)-5-nitrophenyl]-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate and 0.84 g of glycidyl 4-methoxyphenyl ether, and the solution was refluxed under heating for 3 hours. The solvent was distilled off under reduced pressure. The residue was subjected to silica gel column chromatography, and the product was eluted with chloroform-methanol (95:5 v/v). Crude crystals were recrystallized from a mixture of methanol and ethyl ether to give 0.85 g of dimethyl 4-[2-[4-[2-hydroxy-3-(p-methoxyphenoxy)propylamino]butoxy]-5-nitrophenyl]-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate.

reactant | dimethyl 4-[2-(4-aminobutoxy)-5-nitrophenyl]-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | 2 g | NCCCCOC1=C(C=C(C=C1)[N+](=O)[O-])C1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OC | C21H27N3O7
reactant | glycidyl 4-methoxyphenyl ether | 0.84 g | COC1=CC=C(C=C1)OCC1CO1 | C10H12O3
solvent | methanol | 200 ml | CO | CH4O
product | dimethyl 4-[2-[4-[2-hydroxy-3-(p-methoxyphenoxy)propylamino]butoxy]-5-nitrophenyl]-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | 0.85 g | OC(CNCCCCOC1=C(C=C(C=C1)[N+](=O)[O-])C1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OC)COC1=CC=C(C=C1)OC | C31H39N3O10
